US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid and methyl 4-aminobutyrate and suitable processing produces methyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyrate (oil), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyric acid (M.P. 141° to 142°).

reactant | N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)O)C=C1 | C19H20ClNO3
reactant | methyl 4-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-4-aminobutyrate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)NCCCC(=O)OC)C=C1 | C24H29ClN2O4
